US08003785B2
A mixture of 0.095 g (0.15 mmole) of 4-[4-(9-cyclohexyl-7,7-difluoro-5-methyl-6-oxo-6,7,8,9-tetrahydro-5H-pyrimido[4,5-b][1,4]diazepin-2-ylamino)-benzoylamino]-piperidine-1-carboxylic acid tert-butyl ester (I-259) 1 mL of trifluoroacetic acid and 5 mL of dichloromethane was stirred for 1 hour and then concentrated under reduced pressure. The residue was taken up in 30 mL of ethyl acetate, washed twice with 30 mL of saturated aqueous sodium bicarbonate and then brine. The organic layer was dried over anhydrous sodium sulfate, filtered and concentrated under reduced pressure. The residue was triturated with ether, to give 0.062 g of 4-(9-cyclohexyl-7,7-difluoro-5-methyl-6-oxo-6,7,8,9-tetrahydro-5H-pyrimido[4,5-b][1,4]diazepin-2-ylamino)-N-piperidin-4-yl-benzamide (I-260).

reactant | 4-[4-(9-cyclohexyl-7,7-difluoro-5-methyl-6-oxo-6,7,8,9-tetrahydro-5H-pyrimido[4,5-b][1,4]diazepin-2-ylamino)-benzoylamino]-piperidine-1-carboxylic acid tert-butyl ester | 0.15 mmole, 0.095 g | C(C)(C)(C)OC(=O)N1CCC(CC1)NC(C1=CC=C(C=C1)NC=1N=CC2=C(N(CC(C(N2C)=O)(F)F)C2CCCCC2)N1)=O | C31H41F2N7O4
reactant | trifluoroacetic acid | 1 mL | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
product | 4-(9-cyclohexyl-7,7-difluoro-5-methyl-6-oxo-6,7,8,9-tetrahydro-5H-pyrimido[4,5-b][1,4]diazepin-2-ylamino)-N-piperidin-4-yl-benzamide | 0.062 g | C1(CCCCC1)N1C2=C(N(C(C(C1)(F)F)=O)C)C=NC(=N2)NC2=CC=C(C(=O)NC1CCNCC1)C=C2 | C26H33F2N7O2
